US07728025B2
(Step 6) Production of 5-(2-cyano-phenoxy)-2-pyridin-2-yl-6-(6-methanesulfonyl-pyridin-3-yloxy)-1H-benzimidazole
0.007 ml of pyridine-2-carboxaldehyde and 0.5 ml of nitrobenzene were added to a methanol (1 ml) solution of 37 mg of 4-(2-cyano-phenoxy)-5-(6-methanesulfonyl-pyridin-3-yloxy)-benzene-1,2-diamine obtained in (step 5), and the reaction liquid was stirred overnight at 120° C. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=20/1) and through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=15/1) to obtain the entitled compound as a brown solid.

reactant | pyridine-2-carboxaldehyde | 0.007 ml | N1=C(C=CC=C1)C=O | C6H5NO
reactant | nitrobenzene | 0.5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 4-(2-cyano-phenoxy)-5-(6-methanesulfonyl-pyridin-3-yloxy)-benzene-1,2-diamine | 37 mg | C(#N)C1=C(OC=2C=C(C(=CC2OC=2C=NC(=CC2)S(=O)(=O)C)N)N)C=CC=C1 | C19H16N4O4S
solvent | methanol | 1 ml | CO | CH4O
product | 5-(2-cyano-phenoxy)-2-pyridin-2-yl-6-(6-methanesulfonyl-pyridin-3-yloxy)-1H-benzimidazole | C(#N)C1=C(OC2=CC3=C(NC(=N3)C3=NC=CC=C3)C=C2OC=2C=NC(=CC2)S(=O)(=O)C)C=CC=C1 | C25H17N5O4S
